US06710056B2
Methyl 2-methoxy-5-iodobenzoate:
Methyl iodide (0.29 ml, 4.68 mmol) was added to a mixture of 1.0 g (3.60 mmol) of methyl 5-iodosalicylate, 0.50 g (3.60 mmol) of potassium carbonate and 4 ml of dimethylformamide, and they were stirred at room temperature for 3 hours. The reaction mixture was filtered through Celite and then after-treated in by an ordinary method to obtain the title compound.

reactant | Methyl iodide | 4.68 mmol, 0.29 ml | CI | CH3I
reactant | methyl 5-iodosalicylate | 3.60 mmol, 1.0 g | IC1=CC=C(C(C(=O)OC)=C1)O | C8H7IO3
reactant | potassium carbonate | 3.60 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Methyl 2-methoxy-5-iodobenzoate | COC1=C(C(=O)OC)C=C(C=C1)I | C9H9IO3
